US07202245B2
A mixture of 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester (80 mg), isopropylamine (24 mg) and sodium bicarbonate (45 mg) in DMF (2 mL) was stirred at 23° C. for 17 hrs. The mixture was then partitioned between water and EtOAc. The organic layer was washed with brine, dried over sodium sulfate, and concentrated. Trituration with EtOAc/hexanes afforded 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester as a light yellow solid. MS (M+H)+=316.3.

reactant | 4-chloro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | 80 mg | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)Cl | C12H9ClN4O3
reactant | isopropylamine | 24 mg | C(C)(C)N | C3H9N
reactant | sodium bicarbonate | 45 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-isopropylamino-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)NC(C)C | C15H17N5O3
